US04847256
7-(3-Chlorophenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile
To an 8.0 g portion of 7-(3-chlorophenyl)-4,5-dihydropyrazolo[1,5-a]pyrimidine-3-carbonitrile (prepared as described in Ex. 30) in 65 ml of trifluoroacetic acid, stirred under nitrogen and heated to 55° C. was added 7.3 ml of triethylsilane. The reaction mixture was stirred and heated at 60° C. for 71/2 hours. The mixture was then carefully poured into an ice cooled beaker containing 100 ml of 25% aqueous potassium hydroxide. The precipitate which formed was collected by filtration and dissolved in chloroform. The chloroform solution was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to give 6.8 g of white crystals. The crystals were triturated with ether. The ether was collected and crystals formed. The crystals were washed with ether and gave 2.8 g of white crystals. The crude product, 2.8 g, was chromatographed on a liquid chromatograph using a silica gel column and eluting with 5% ethyl acetate/chloroform. The fraction containing the desired product was collected and evaporated in vacuo and gave crystals, mp 148°-150° C.

reactant | 7-(3-chlorophenyl)-4,5-dihydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | ClC=1C=C(C=CC1)C1=CCNC=2N1N=CC2C#N | C13H9ClN4
reactant | triethylsilane | 7.3 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | potassium hydroxide | 100 ml | [OH-].[K+]
solvent | trifluoroacetic acid | 65 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-(3-Chlorophenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | 6.8 g | ClC=1C=C(C=CC1)C1CCNC=2N1N=CC2C#N | C13H11ClN4
